US05128340
N-Chlorosuccinimide (14,7 g) was added all at once to a solution of 4-(pyridin-3-yl)-thiazol-2-amine (17,7 g) in N,N-dimethylformamide (130 ml) at 0°-5° C. After five minutes, the product precipitated, and after ten minutes, precipitation was completed by addition of water and ammonium hydroxide solution. The product was filtered and dried in vacuo at 60° C. to give 5-chloro-4-(pyridin-3-yl)-thiazol-2-amine, (18,2 g) Mp 202° C.

reactant | N-Chlorosuccinimide | 14,7 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 4-(pyridin-3-yl)-thiazol-2-amine | 17,7 g | N1=CC(=CC=C1)C=1N=C(SC1)N | C8H7N3S
solvent | N,N-dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
product | 5-chloro-4-(pyridin-3-yl)-thiazol-2-amine | 18,2 g | ClC1=C(N=C(S1)N)C=1C=NC=CC1 | C8H6ClN3S
